US08217065B2
(3-Chloro-phenyl)-{5-[2-(2,6-dichloro-phenyl)-3H -benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine
To a solution of 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.466 mmol) in DMF (3 mL) add 3-chloro phenyl isothiocyanate (69 uL, 0.512 mmol) and stir for 1.75 hr. Add EDCI (179 mg, 0.932 mmol) and heat to 80° C. for 30 min. Allow to stir at room temp overnight. Dilute the reaction with EtOAc (50 mL) and extract with water (10 mL) and 1 N NaOH (10 mL). Dry the organic phase over Na2SO4 and evaporate the solvent. Combine the aqueous phases, chill to 4° C., and filter. Combine the solids and suspend them in boiling toluene/EtOAc. Cool the suspension to 4° C. and filter. Wash the solid with Et2O. Dry to afford the title compound as a white solid: 1H NMR (400 MHz, DMSO-d6) ppm 7.07 (ddd, J=7.96, 2.02, 0.76 Hz, 1 H) 7.40 (t, J=8.15 Hz, 1 H) 7.50-7.55 (m, 1 H) 7.62-7.67 (m, 1 H) 7.70 (s, 1 H) 7.72 (d, J=2.02 Hz, 1 H) 7.75-7.91 (m, 3 H) 8.11 (br. s., 1 H) 10.99 (br. s., 1 H) 13.28 (br. s., 1 H); MS m/z=457.9 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.466 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | 3-chloro phenyl isothiocyanate | 0.512 mmol, 69 uL | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
reactant | EDCI | 0.932 mmol, 179 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (3-Chloro-phenyl)-{5-[2-(2,6-dichloro-phenyl)-3H -benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine | ClC=1C=C(C=CC1)NC=1OC(=NN1)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1 | C21H12Cl3N5O
